US04690931
1. 2-[4-(4-Methylbenzyl)-piperidino]-3',4'-dimethoxypropiophenone
5.4 g (0.05 mol) of sodium carbonate are added to a mixture of 13.65 g (0.05 mol) of 2-bromo-3',4'-dimethoxypropiophenone and 9.46 g (0.05 mol) of 4-(4-methylbenzyl)-piperidine in 50 ml of ethanol and the mixture is heated under reflux for 3 hours. It is then evaporated to dryness and the residue is passed through a column of silica using acetone as the eluant. This gives an oil, which is used as such.

reactant | sodium carbonate | 0.05 mol, 5.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-3',4'-dimethoxypropiophenone | 0.05 mol, 13.65 g | BrC(C(=O)C1=CC(=C(C=C1)OC)OC)C | C11H13BrO3
reactant | 4-(4-methylbenzyl)-piperidine | 0.05 mol, 9.46 g | CC1=CC=C(CC2CCNCC2)C=C1 | C13H19N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[4-(4-Methylbenzyl)-piperidino]-3',4'-dimethoxypropiophenone | CC1=CC=C(CC2CCN(CC2)C(C(=O)C2=CC(=C(C=C2)OC)OC)C)C=C1 | C24H31NO3
